US06537948B1
To a mixed solution of 3.0 g of an iron powder, 15 ml of acetic acid and 1.5 ml of water was added a solution of 3.0 g of 6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-benzyloxy-3-nitropyridine in 10 ml of acetic acid and 10 ml of ethyl acetate dropwise while maintaining the temperature of the reaction solution at 35° C. or lower. After completion of the addition, the mixture was stirred over night, then, the reaction solution was filtrated through Celite, and the solvent was removed at reduced pressure. The residue was diluted with saturated aqueous sodium bicarbonate solution, extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The resulted residue was subjected to silica gel chromatography to obtain 2.55 g of 3-amino-6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-benzyloxypyridine

reactant | water | 1.5 ml | O | H2O
reactant | 6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-benzyloxy-3-nitropyridine | 3.0 g | ClC1=C(OC2=CC=C(C(=N2)OCC2=CC=CC=C2)[N+](=O)[O-])C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C24H15ClF4N4O6
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 3.0 g | [Fe] | Fe
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-amino-6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-benzyloxypyridine | 2.55 g | NC=1C(=NC(=CC1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)OCC1=CC=CC=C1 | C24H17ClF4N4O4
